US09315521B2
6-methyl-2-({[4-(trifluoromethyl)pyridin-3-yl]methyl}sulfanyl)pyrimidin-4-ol, (150 mg, 498 μmol) was stirred in methanol (20 mL) and a solution of 4 N HCl in dioxane (190 μL, 747 μmol) was added dropwise at 0° C. The mixture was stirred for 15 minutes at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford 6-methyl-2-({[4-(trifluoromethyl)pyridin-3-yl]methyl}sulfanyl)pyrimidin-4-ol hydrochloride (147 mg, 88% yield); 1H NMR (400 MHz, DMSO-d6) δ 2.23 (s, 3H), 4.60 (s, 2H), 6.11 (s, 1H), 7.78 (d, J=5.1 Hz, 1H), 8.78 (d, J=5.1 Hz, 1H), 9.04 (s, 1H); LRMS (ES+) m/z 302 (100%, M+1).

reactant | 6-methyl-2-({[4-(trifluoromethyl)pyridin-3-yl]methyl}sulfanyl)pyrimidin-4-ol | 498 μmol, 150 mg | CC1=CC(=NC(=N1)SCC=1C=NC=CC1C(F)(F)F)O | C12H10F3N3OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 747 μmol, 190 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
product | 6-methyl-2-({[4-(trifluoromethyl)pyridin-3-yl]methyl}sulfanyl)pyrimidin-4-ol hydrochloride | 147 mg, 88% yield | Cl.CC1=CC(=NC(=N1)SCC=1C=NC=CC1C(F)(F)F)O | InChI=1S/C12H10F3N3OS.ClH/c1-7-4-10(19)18-11(17-7)20-6-8-5-16-3-2-9(8)12(13,14)15;/h2-5H,6H2,1H3,(H,17,18,19);1H
